.SUBCKT 4input0x3ab_X1 A B C D VDD VSS Y
* Canonical: 0b0000001110101011
* Function: Y = binate [small-gate search, 12 TR]
* Transistors: 12
MP0 sg4 A VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP2 sg6 B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP3 sg6 C VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP9 Y sg6 VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP10 Y D sg8_pmid VDD pmos_rvt W=46.0n L=16n nfin=2
MP11 sg8_pmid sg4 VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MN1 sg4 A VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN4 sg6 B sg6_ns0 VSS nmos_rvt W=46.0n L=16n nfin=2
MN5 sg6_ns0 C VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN6 Y sg6 sg8_nmid VSS nmos_rvt W=46.0n L=16n nfin=2
MN7 sg8_nmid D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN8 sg8_nmid sg4 VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
