.SUBCKT 4input0xAAA8_X2 A B C D VDD VSS Y
* Canonical: 0b0000000001111111
* Function: Y = !(A+B·C·D) [4 lits, SOP was 4]
* Transistors: 8
MMP1 npM0 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MMP2 Y B npM0 VDD pmos_rvt W=92.0n L=16n nfin=4
MMP3 Y C npM0 VDD pmos_rvt W=92.0n L=16n nfin=4
MMP4 Y D npM0 VDD pmos_rvt W=92.0n L=16n nfin=4
MMN0 Y A VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MMN3 Y B nsM1 VSS nmos_rvt W=92.0n L=16n nfin=4
MMN4 nsM1 C nsM2 VSS nmos_rvt W=92.0n L=16n nfin=4
MMN5 nsM2 D VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
