.SUBCKT 4input0xAAAE_X1 A B C D VDD VSS Y
* Canonical: 0b1010101010101110
* Function: Y = binate [small-gate search, 10 TR]
* Transistors: 10
MP0 sg4 A VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP1 sg4 B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP7 Y D VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP8 Y C sg6_pmid VDD pmos_rvt W=46.0n L=16n nfin=2
MP9 sg6_pmid sg4 VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MN2 sg4 A sg4_ns0 VSS nmos_rvt W=46.0n L=16n nfin=2
MN3 sg4_ns0 B VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN4 Y D sg6_nmid VSS nmos_rvt W=46.0n L=16n nfin=2
MN5 sg6_nmid C VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN6 sg6_nmid sg4 VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
