.SUBCKT 4input0xAAEA_X2 A B C D VDD VSS Y
* Canonical: 0b1010101011101010
* Function: Y = binate [small-gate search, 12 TR]
* Transistors: 12
MP0 sg4 B VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP2 sg6 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP3 sg6 sg4 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP9 Y D VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP10 Y C sg8_pmid VDD pmos_rvt W=92.0n L=16n nfin=4
MP11 sg8_pmid sg6 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MN1 sg4 B VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN4 sg6 A sg6_ns0 VSS nmos_rvt W=92.0n L=16n nfin=4
MN5 sg6_ns0 sg4 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN6 Y D sg8_nmid VSS nmos_rvt W=92.0n L=16n nfin=4
MN7 sg8_nmid C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN8 sg8_nmid sg6 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
