.SUBCKT 4input0xABEF_X2 A B C D VDD VSS Y
* Canonical: 0b1010101111101111
* Function: Y = binate [small-gate search, 14 TR]
* Transistors: 14
MP0 sg4 C VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP6 sg6_p0 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP7 sg6_p0 sg4 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP8 sg6 B sg6_p0 VDD pmos_rvt W=92.0n L=16n nfin=4
MP9 sg6 C sg6_p0 VDD pmos_rvt W=92.0n L=16n nfin=4
MP10 Y D VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP11 Y sg6 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MN1 sg4 C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN2 sg6 A sg6_n0 VSS nmos_rvt W=92.0n L=16n nfin=4
MN3 sg6_n0 sg4 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN4 sg6 B sg6_n1 VSS nmos_rvt W=92.0n L=16n nfin=4
MN5 sg6_n1 C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN12 Y D sg8_ns0 VSS nmos_rvt W=92.0n L=16n nfin=4
MN13 sg8_ns0 sg6 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
